*$
* TPS54360
*****************************************************************************
* (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS54360
* Date: 02SEP2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: TPS54360EVM-182
* EVM Users Guide: SLVU769B–September 2012–Revised September 2012
* Datasheet: SLVSBB4E–AUGUST 2012–REVISED MARCH 2014
*
* Model Version: Final 1.10
*
*****************************************************************************
*
* Updates:
*
* Final 1.10
* Bug Fix: Added Hysteresis to OVP.
*
* Final 1.00
* Release to Web.
*
****************************************************************************
.SUBCKT TPS54360_TRANS BOOT COMP EN GND SW RT_CLK VIN FB ThermalPAD PARAMS: STEADY_STATE=0
R_thermal1 ThermalPAD 0 1m
R_thermal2 ThermalPAD 0 1m
V_V47         SET0 0 0Vdc
V_U6_V1         U6_N16588693 0 0.86
X_U6_U134         U6_N16564386 SDWN U6_N16543632 OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
C_U6_C146         0 U6_N16489275  5p
X_U6_U603         PWM_CLK N16528816 SYSCLK SET1 U6_PWM SET1
+  DFFSBRB_RHPBASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
E_U6_ABM148         U6_N16489469 0 VALUE { {V(U6_VRAMPIN)*1u}    }
E_U6_ABM163         U6_N16502082 0 VALUE { LIMIT(((V(U6_N16488977) -
+  V(U6_VRAMP)) * 5)
+ -14.4u,-1.22u,61.2u)   }
X_U6_S26    U6_N16543632 0 U6_VRAMPIN 0 GmIphase_U6_S26
E_U6_ABM152         U6_ISWF 0 VALUE { {IF(V(U6_N16489275) > 0.5,
+ V(ISW),-0.1)}   }
R_U6_R255         U6_N16489395 U6_N16489275  14.4k
V_U6_V2         U6_N165858563 0 0.024
C_U6_C134         0 U6_VRAMPIN  1n
X_U6_U602         U6_N16575036 BOOT_UVLO U6_OVTP U6_PWM AND3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
E_U6_ABM165         U6_N16531938 0 VALUE { (V(U6_N16502082) * 91.4k)    }
D_U6_D58         U6_N16489275 U6_N16489395 D_D1
R_U6_R256         U6_N16531938 U6_ICTRL  1
E_U6_ABM164         U6_N16488977 0 VALUE { {((V(COMP) /123k)  - 4u)*3}    }
R_U6_R239         U6_N16489469 U6_VRAMP  1
G_U6_ABMI4         U6_VRAMPIN 0 VALUE { {V(IF2IA) * -1}    }
C_U6_C147         0 U6_ICTRL  1n
C_U6_C135         0 U6_VRAMP  1n
E_U6_ABM151         U6_N16489395 0 VALUE { {IF(V(PWM_FINAL) > 0.5, 1,0)}    }
X_U6_U599         SYSCLK U6_N16489527 INV_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=15n
X_U6_U600         U6_ICTRL U6_ISWF U6_N16575036 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U6_U598         SYSCLK U6_N16489527 U6_N16564386 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U6_U604         U6_N16588693 VSENSEINT U6_N165858563 U6_OVTP
+  COMPHYS2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5 T=10
R_R1         GND 0  1m
V_V46         SET1 0 1
R_U3_R276         0 U3_N16489962  10G
R_U3_R282         U3_N16638112 VSENSEINT  1
R_U3_R277         U3_N16489962 RT_CLK  1
R_U3_R283         U3_N16667294 U3_N16667366  122.655
R_U3_R7         U3_N166379101 U3_N16638088  1
G_U3_G1         U3_N16490102 U3_RAMP U3_N16650384 0 1
C_U3_C79         U3_RAMP 0  1n
X_U3_H1    U3_N16489962 U3_N16523619 I_RT 0 Oscillator_U3_H1
E_U3_ABM164         U3_N16638112 0 VALUE { V(FB)    }
C_U3_C160         U3_N16667366 0  1n
X_U3_U6         U3_N16637796 VSENSEINT U3_OUT2 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
E_U3_ABM1         FSW 0 VALUE { {(101756*1e-6)/((-1e-3/I(V_U3_V44))**1.008)}
+  }
V_U3_V46         U3_N16505459 0 1
X_U3_U131         U3_RAMP U3_N16505459 U3_SYSCLK1 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U3_U7         U3_N16638088 VSENSEINT U3_OUT3 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U3_U138         U3_SYSCLK1 U3_N16667366 SYSCLK OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
C_U3_C161         0 IF2IA  1n
D_U3_D11         U3_RAMP U3_N16490102 D_D1
X_U3_U135         U3_SYSCLK1 U3_N16517387 BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=30n
R_U3_R278         I_RT 0  0.5
E_U3_ABM166         U3_N16676060 0 VALUE { IF(V(U3_OUT3) < 0.5, 660*V(I_RT),
+ IF(V(U3_OUT2) < 0.5, 330*V(I_RT),
+ IF(V(U3_OUT1) < 0.5, 165*V(I_RT), 82.5*V(I_RT))))  }
C_U3_C8         0 U3_N16668029  1n
D_U3_D12         U3_N16667294 U3_N16667366 D_D1
X_U3_U134         SDWN U3_N16517387 U3_N16517226 OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
E_U3_ABM165         U3_N16650384 0 VALUE {
+  IF(V(U3_OUT3)<0.5,(101756*1e-6)/((-1e-3/I(V_U3_V44))**1.008),
+ IF(V(U3_OUT2)<0.5,(((101756*1e-6)/((-1e-3/I(V_U3_V44))**1.008))/2),
+
+  IF(V(U3_OUT1)<0.5,(((101756*1e-6)/((-1e-3/I(V_U3_V44))**1.008))/4),(((101756*1e-6)/((-1e-3/I(V_U3_V44))**1.008))/8))))
+   }
R_U3_R280         U3_N16676060 IF2IA  1
C_U3_C159         0 VSENSEINT  1n
E_U3_ABM7         U3_N166679551 0 VALUE { ((V(U3_OUT1)*25m) + 0.175)    }
C_U3_C7         0 U3_N16638088  1n
R_U3_R8         U3_N166679551 U3_N16668029  1
X_U3_S26    U3_N16517226 0 U3_RAMP 0 Oscillator_U3_S26
R_U3_R5         U3_N166378601 U3_N16637796  1
X_U3_U136         U3_SYSCLK1 U3_N16667326 U3_N16667294 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U3_U8         U3_N16668029 VSENSEINT U3_OUT1 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
C_U3_C5         0 U3_N16637796  1n
V_U3_V44         U3_N16523619 0 1
E_U3_ABM4         U3_N166378601 0 VALUE { ((V(U3_OUT2)*50m) + 0.35)    }
V_U3_V45         U3_N16490102 0 5
X_U3_U137         U3_SYSCLK1 U3_N16667326 INV_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=15n
E_U3_ABM6         U3_N166379101 0 VALUE { ((V(U3_OUT3)*75m) + 0.525)    }
X_U8_U606         SDWN U8_SDWN_N INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U8_U613         SDWN U8_N7365280 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_U8_R3         U8_N73698801 U8_N7345383  1
R_U8_R244         U8_N7274256 BOOT_UVLO  1
X_U8_U608         U8_HDRVIN U8_N7342498 U8_N7274022 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U8_U602         U8_OUT U8_BOOT_ON INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U8_U607         U8_LDRV ENAB U8_BOOT_ON U8_SDWN_N U8_BOOT_SW_ON
+  AND4_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U8_U612         U8_N7274198 U8_N7343256 BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=10n
X_U8_U609         U8_N7343256 U8_N7274198 U8_N7274032 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
C_U8_C140         0 BOOT_UVLO  1n
X_U8_H1    VIN U8_N7273984 ISW 0 Driver_U8_H1
E_U8_ABM2         U8_N73698801 0 VALUE { ((V(U8_OUT) *-500m)+ 6)    }
X_U8_S34    U8_BOOT_SW_ON 0 BOOT VIN Driver_U8_S34
C_U8_C3         0 U8_N7345383  1n
X_U8_U610         U8_HDRVIN U8_N7274198 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U8_U604         U8_N7365280 PWM_FINAL U8_HDRVIN AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
E_U8_ABM169         U8_N7347010 0 VALUE { V(BOOT) - V(SW)    }
X_U8_U611         U8_HDRVIN U8_N7342498 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=10n
X_U8_S3    U8_N7274032 0 HDRV SW Driver_U8_S3
X_U8_U605         U8_HDRVIN U8_LDRV INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_U8_ABM167         U8_N7274256 0 VALUE { {IF((V(BOOT) - V(SW)) < 2.1,0,1)}
+  }
X_U8_S2    U8_N7274022 0 BOOT HDRV Driver_U8_S2
D_U8_D13         SW U8_N7273984 D_D1
X_U8_S30    HDRV SW U8_N7273984 SW Driver_U8_S30
R_U8_R245         0 BOOT  10MEG
X_U8_U5         U8_N7347010 U8_N7345383 U8_OUT COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
C_U5_C162         0 U5_N16512904  1n
C_U5_C9         0 OCB  1n
G_U5_ABM2I1         0 COMP VALUE { {LIMIT((V(VREF_GM) -
+  V(VSENSEINT))*V(U5_VGM), -30u,30u)}    }
D_U5_D10         COMP U5_N16513008 D_D1
E_U5_ABM177         U5_N16513064 0 VALUE { IF(V(U5_N16512904) < 77u, 77u,
+  IF(V(U5_N16512904) > 350u, 350u,V(U5_N16512904)))    }
X_U5_U603         SDWN U5_N16513124 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_U5_R4         0 COMP  28.5714Meg
C_U5_C5         0 COMP  7.42f
R_U5_R286         U5_N16512948 U5_N16512904  1
E_U5_ABM8         U5_N16513186 0 VALUE { {IF(V(COMP) > 1.9,1,0)}    }
D_U5_U597         U5_N16513014 COMP D_D
V_U5_V6         U5_N16513008 0 2
C_U5_C166         0 U5_VGM  1n
R_U5_R290         U5_N16513064 U5_VGM  1
V_U5_V5         U5_N16513014 0 0.6
X_U5_U614         U5_N16513186 U5_N16513124 U5_N16513160 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
R_U5_R11         U5_N16513160 OCB  1
E_U5_ABM171         U5_N16512948 0 VALUE { {IF(V(SS_TR) < 0.7, 70u, 70u + (240u
+  *((V(SS_TR) -700m)/299m)))}    }
X_U11_U604         ENAB U11_N16496294 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_U11_ABM173         SS_DISCH 0 VALUE { {IF(V(SS_TR)  < 54m,0,
+ IF(V(U11_N6045136) > 0.5,1,0))}   }
X_U11_U601         U11_N16496294 U11_UVLO SDWN OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U11_U603         SDWN U11_N6045130 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_U11_V64         U11_N6045018 0 4.3
R_U11_R287         0 U11_N6045136  1k
X_U11_U602         U11_N6045018 VIN U11_UVLO COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
C_U11_C163         U11_N6045130 U11_N6045136  140.5p
C_U1_C1         0 ENAB  1n
D_U1_D9         EN VIN D_D1
E_U1_ABM173         U1_N7335522 0 VALUE { {IF(V(VIN) > 2.5,5,0)}    }
R_U1_R1         U1_N7335540 ENAB  1
R_U1_R256         EN U1_N7335522  100MEG
D_U1_D8         EN U1_N7335522 D_D1
E_U1_ABM1         U1_N7335540 0 VALUE { {IF(V(EN) < 1.2,0,1)}    }
G_U1_ABMII1         VIN EN VALUE { {1.2u+ 3.4u*V(ENAB)}    }
C_U7_C177         0 U7_INDELAYED2  10p
C_U7_C171         0 U7_N16490100  1n
R_U7_R273         U7_N16489586 U7_N16490100  1
X_U7_U6         U7_OR2OUT1 U7_OR2OUT2 U7_N16490100 PWM_FINAL MUX2_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
D_U7_U620         U7_N16489522 U7_INDELAYED1 D_D
X_U7_U826         PWM_CLK U7_N16509390 INV_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=15n
X_U7_U825         U7_N16509288 U7_INDELAYED2 PWM_CLK U7_OR2OUT2 OR3_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
E_U7_ABM13         U7_N16489586 0 VALUE { IF(V(COMP) <0.65 ,1,0)    }
R_U7_R276         U7_N16509288 U7_INDELAYED2  18k
X_U7_U823         U7_N16497188 PWM_CLK U7_N16489522 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U7_U827         U7_N16509390 PWM_CLK U7_N16509288 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
C_U7_C172         0 U7_INDELAYED1  10p
R_U7_R272         U7_N16489522 U7_INDELAYED1  13.68k
D_U7_U623         U7_N16509288 U7_INDELAYED2 D_D
X_U7_U822         PWM_CLK U7_N16497188 INV_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=15n
X_U7_U824         U7_N16489522 U7_INDELAYED1 PWM_CLK U7_OR2OUT1 OR3_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
E_U4_ABM178         U4_N7398284 0 VALUE { IF(V(U4_N7404432) < 0.8,
+  V(U4_N7404432),0.8)    }
E_U4_ABM180         U4_N7398466 0 VALUE { IF(V(OCB) > 0.5,1,0)    }
V_U4_V70         U4_N7397990 0 1.7
D_U4_D62         SS_TR U4_N7397990 D_D1
G_U4_ABMII1         U4_N7397990 SS_TR VALUE { {IF(V(U4_N16518371) >
+  0.5,v(FSW)*0.7/1024,0)}    }
R_U4_R13         U4_N7404426 U4_N7404432  1
X_U4_U1         SDWN U4_N16518371 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
D_U4_D63         0 SS_TR D_D1
X_U4_S68    U4_N7398492 0 SS_TR 0 SoftStart_U4_S68
E_U4_ABM179         VREF_GM 0 VALUE { IF({STEADY_STATE} < 0.5,
+  V(U4_N7398290),0.8)    }
G_U4_ABMI5         SS_TR 0 VALUE { {IF(V(SS_DISCH) > 2.5, 1.25e-3,0)}    }
R_U4_R14         U4_N7398284 U4_N7398290  1
C_U4_C8         0 SS_TR  1n
R_U4_R15         U4_N7398466 U4_N7398492  1
E_U4_ABM174         U4_N7404426 0 VALUE { IF(V(SS_TR) < 500m, V(SS_TR) - 34.4m,
+
+ IF(V(SS_TR) > 1500m, 0.8,
+ V(SS_TR) - ((0.6633*V(SS_TR)*V(SS_TR)) -(0.6493*V(SS_TR)) + 0.1802)))  }
C_U4_C12         0 U4_N7404432  1n
C_U4_C14         0 U4_N7398290  1n
C_U4_C15         0 U4_N7398492  100n 
C_U1_C99         EN 0 1p IC=0 
.IC         V(SS_TR )={STEADY_STATE*1.7}
.ENDS TPS54360_TRANS
*$
.subckt GmIphase_U6_S26 1 2 3 4
S_U6_S26         3 4 1 2 _U6_S26
RS_U6_S26         1 2 1G
.MODEL         _U6_S26 VSWITCH Roff=100e6 Ron=10m Voff=0.2 Von=0.8
.ends GmIphase_U6_S26
*$
.subckt Oscillator_U3_H1 1 2 3 4
H_U3_H1         3 4 VH_U3_H1 -1
VH_U3_H1         1 2 0V
.ends Oscillator_U3_H1
*$
.subckt Oscillator_U3_S26 1 2 3 4
S_U3_S26         3 4 1 2 _U3_S26
RS_U3_S26         1 2 1G
.MODEL         _U3_S26 VSWITCH Roff=100e6 Ron=1.0 Voff=0.2 Von=0.8
.ends Oscillator_U3_S26
*$
.subckt Driver_U8_H1 1 2 3 4
H_U8_H1         3 4 VH_U8_H1 1
VH_U8_H1         1 2 0V
.ends Driver_U8_H1
*$
.subckt Driver_U8_S34 1 2 3 4
S_U8_S34         3 4 1 2 _U8_S34
RS_U8_S34         1 2 1G
.MODEL         _U8_S34 VSWITCH Roff=1000e6 Ron=15 Voff=0.2 Von=0.8
.ends Driver_U8_S34
*$
.subckt Driver_U8_S3 1 2 3 4
S_U8_S3         3 4 1 2 _U8_S3
RS_U8_S3         1 2 1G
.MODEL         _U8_S3 VSWITCH Roff=1e6 Ron=1.0 Voff=0.2 Von=0.8
.ends Driver_U8_S3
*$
.subckt Driver_U8_S2 1 2 3 4
S_U8_S2         3 4 1 2 _U8_S2
RS_U8_S2         1 2 1G
.MODEL         _U8_S2 VSWITCH Roff=1e6 Ron=2 Voff=0.2 Von=0.8
.ends Driver_U8_S2
*$
.subckt Driver_U8_S30 1 2 3 4
S_U8_S30         3 4 1 2 _U8_S30
RS_U8_S30         1 2 1G
.MODEL         _U8_S30 VSWITCH Roff=10e6 Ron=92m Voff=1.0 Von=1.2
.ends Driver_U8_S30
*$
.subckt SoftStart_U4_S68 1 2 3 4
S_U4_S68         3 4 1 2 _U4_S68
RS_U4_S68         1 2 1G
.MODEL         _U4_S68 VSWITCH Roff=100e6 Ron=1047 Voff=0.2 Von=0.8
.ends SoftStart_U4_S68
*$
.model D_D1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.1
*$
.model D_D d
+ is=1e-015
+ n=0.01
+ tt=1e-011
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT DFFSBRB_RHPBASIC_GEN Q QB CLK D RB SB PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X1 CLK CLKdel INV_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
GQ 0 Qint VALUE = {IF(V(RB) < {VTHRESH},-1,IF(V(SB)< {VTHRESH},1, IF(V(CLKint)> {VTHRESH},
+ IF(V(D)> {VTHRESH},1,-1),0)))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 1
D_D11 0 Qint D_D1
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 20n
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr Qb 1
Cdummy1 Q 0 1nF
Cdummy2 QB 0 1nF
.IC V(Qint) {VSS}
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1 )
.ENDS DFFSBRB_RHPBASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) >
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT COMPHYS2_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
+ T=10
EIN INP1 INM1 INP INM 1 
EHYS INM2 INM1 VALUE { IF( V(1) > {VTHRESH},-V(HYS)/2,V(HYS)/2) }
EOUT OUT 0 VALUE { IF( V(INP1)>V(INM2), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 {T*1e-9}
RINP1 INP1 0 10K
RINM2 INM2 0 10K
.ENDS COMPHYS2_BASIC_GEN
*$
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT AND4_BASIC_GEN A B C D Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH} &
+ V(D) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND4_BASIC_GEN
*$
.SUBCKT MUX2_BASIC_GEN A B S Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE  YINT 0 VALUE {{IF(V(S) > {VTHRESH},
+ V(B),V(A))}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS MUX2_BASIC_GEN
*$
.SUBCKT OR3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR3_BASIC_GEN
*$
.SUBCKT CESR IN OUT
+ PARAMs:  C=100u ESR=0.01 X=2 IC=0
C	IN 1  {C*X} IC={IC}
RESR	1 OUT {ESR/X}
.ENDS CESR
*$
.SUBCKT LDCR IN OUT
+ PARAMs:  L=1u DCR=0.01 IC=0
L	IN 1  {L} IC={IC}
RDCR	1 OUT {DCR}
.ENDS LDCR
*$
